US06911450B1
1-(4-benzoyloxybutyloxymethyl)-6-(3,5-dimethylbenzyl)-5-ethyluracil (500 mg, 1.08 mmol) was added to a solution of sodium hydroxide (360 mg, 9 mmol) in methanol (50 ml) and the mixture was stirred at 20° C. for 3 h. After neutralization (concentrated hydrochloric acid) and concentration, the residue was subjected to a flash column chromatography (dichloromethane/methanol 19:1) which gave the 6-(3,5-dimethyl benzyl)-5-ethyl-1-(4-hydroxybutyloxymethyl)uracil (190 mg, 48%) in the form of a white solid.

reactant | 1-(4-benzoyloxybutyloxymethyl)-6-(3,5-dimethylbenzyl)-5-ethyluracil | 1.08 mmol, 500 mg | C(C1=CC=CC=C1)(=O)OCCCCOCN1C(=O)NC(=O)C(=C1CC1=CC(=CC(=C1)C)C)CC | C27H32N2O5
reactant | sodium hydroxide | 9 mmol, 360 mg | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 6-(3,5-dimethyl benzyl)-5-ethyl-1-(4-hydroxybutyloxymethyl)uracil | 190 mg, 48% | CC=1C=C(CC2=C(C(NC(N2COCCCCO)=O)=O)CC)C=C(C1)C | C20H28N2O4
